US05264577
Step D: Preparation of α-Amino-9H-thioxanthene-9-acetic acid, hydrochloride
Ethyl α-amino-9H-thioxanthene-9-acetate hydrochloride (3.5 g, 10 mmol) is dissolved in 30 mL of absolute ethanol and 33 mL of 1.25 M ethanolic potassium hydroxide solution (4 equivalents) is added. The reaction mixture is stirred at room temperature for 22 hours when TLC (SiO2, hexane:2-propanol/3:1) shows no starting material. Ethanol is stripped under vacuum and the residue taken up in 75 mL of water and extracted with diethyl ether. The aqueous solution is acidified with 1N hydrochloric acid to pH 7 and a precipitate is collected by filtration, washed with water, dried at 45° C./2 mm Hg over phosphorous pentoxide (P2O5). This gives 1.65 g of the title compound; mp 244°-246° C. The mother liquor is concentrated, cooled at +3° C. to furnish the second crop (0.57 g) of the title compound as a hydrochloride free base mixture. The above solids are combined in 50 mL of water and treated with 1N hydrochloric acid to pH 1. The mixture is stripped to dryness under vacuum and the residue dried at 50° C./2 mm Hg to give the title compound; mp 269°-273° C. (dec).

reactant | Ethyl α-amino-9H-thioxanthene-9-acetate hydrochloride | 10 mmol, 3.5 g | Cl.NC(C(=O)OCC)C1C2=CC=CC=C2SC=2C=CC=CC12
reactant | potassium hydroxide | 1.25 M, 33 mL, 4 equivalents | [OH-].[K+]
reactant | hexane | CCCCCC | C6H14
reactant | 2-propanol | CC(C)O | C3H8O
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | water | 75 mL | O | H2O
product | α-Amino-9H-thioxanthene-9-acetic acid, hydrochloride | 0.57 g | Cl.NC(C(=O)O)C1C2=CC=CC=C2SC=2C=CC=CC12 | InChI=1S/C15H13NO2S.ClH/c16-14(15(17)18)13-9-5-1-3-7-11(9)19-12-8-4-2-6-10(12)13;/h1-8,13-14H,16H2,(H,17,18);1H
